US08703768B2
Step 1: 3-(Bis(tert-butoxycarbonyl)amino)-6-(2,2,2-trifluoro-ethoxy)-pyrazine-2-carboxylic acid methyl ester
A suspension of methyl 3-(bis(tert-butoxycarbonyl)amino)-6-bromopyrazine-2-carboxylate (500 mg, 1.16 mmol), 2,2,2-trifluoroethanol (84 μl, 1.16 mmol), cesium carbonate (415 mg, 1.27 mmol) and dry DMSO (5 ml) was stirred at r.t. for 3 h. The reaction mixture was poured into ethyl acetate (100 ml) and extracted with saturated sodium bicarbonate (aqueous solution). The organic layer was washed with water and brine and the aqueous layers were back-extracted with ethyl acetate. The combined organic layers were dried, evaporated and the product was obtained after purification by silica gel chromatography using a heptane/ethyl acetate gradient as white solid (456 mg, 87%).

reactant | methyl 3-(bis(tert-butoxycarbonyl)amino)-6-bromopyrazine-2-carboxylate | 1.16 mmol, 500 mg | C(C)(C)(C)OC(=O)N(C=1C(=NC(=CN1)Br)C(=O)OC)C(=O)OC(C)(C)C | C16H22BrN3O6
reactant | 2,2,2-trifluoroethanol | 1.16 mmol, 84 μl | FC(CO)(F)F | C2H3F3O
reactant | cesium carbonate | 1.27 mmol, 415 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DMSO | 5 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 3-(Bis(tert-butoxycarbonyl)amino)-6-(2,2,2-trifluoro-ethoxy)-pyrazine-2-carboxylic acid methyl ester | COC(=O)C1=NC(=CN=C1N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)OCC(F)(F)F | C18H24F3N3O7
